US07776857B2
Synthesis of 7-(4(4-phenylphthalazin-1-ylamino)phenoxy)thieno[3,2-b]pyridine-2-carboxamide
A 5 ml microwave tube was charged with 7-(4-aminophenoxy)thieno[3,2-b]pyridine-2-carboxamide (85 mg, 0.300 mmol) and 1-chloro-4-phenylphthalazine (60 mg, 0.250 mmol) in 2.0 ml of tert-butanol. The vessel was capped and irradiated at 140° C. for 15 minutes in the microwave. Analysis of an aliquot of the crude mixture by LCMS showed remaining starting material and approximately 20% conversion to desired product. Irradiated at 150° C. for an additional 20 minutes, at which time reaction was deemed complete by LCMS analysis. Cooled to ambient temperature and diluted reaction mixture with methanol. Filtered solids, washed with additional methanol and concentrated in vacuo to afford 7-(4-(4-phenylphthalazin-1-ylamino)phenoxy)thieno[3,2-b]pyridine-2-carboxamide. MS m/z=490 [M+H]+. Calc'd for C28H19N5O2S: 489.55.

reactant | 7-(4-aminophenoxy)thieno[3,2-b]pyridine-2-carboxamide | 0.300 mmol, 85 mg | NC1=CC=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)N)C=C1 | C14H11N3O2S
reactant | 1-chloro-4-phenylphthalazine | 0.250 mmol, 60 mg | ClC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C14H9ClN2
solvent | tert-butanol | 2.0 ml | C(C)(C)(C)O | C4H10O
product | 7-(4(4-phenylphthalazin-1-ylamino)phenoxy)thieno[3,2-b]pyridine-2-carboxamide | C1(=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)N)C=C1 | C28H19N5O2S
